US08466290B2
Synthesis of 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid
A suspension of 50% hydrated 10% palladium-carbon (180 mg) in water (1 mL) was added to a methanol (10 mL) solution of 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid benzyl ester (940 mg, 2.34 mmol) obtained above, and the mixture was stirred for 7 hours in a hydrogen atmosphere. The catalyst was filtered off through celite, and then, the solvent was distilled off to obtain the title compound (610 mg, 1.99 mmol).

reactant | methanol | 10 mL | CO | CH4O
reactant | 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid benzyl ester | 2.34 mmol, 940 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)OC(C)=O | C25H19NO4
reactant | hydrogen | [H][H] | H2
solvent | water | 1 mL | O | H2O
catalyst | palladium-carbon | 180 mg | [C].[Pd]
product | 2-(2-acetoxyphenyl)-4-quinolinecarboxylic acid | 1.99 mmol, 610 mg | C(C)(=O)OC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C18H13NO4
